US07863271B2
A solution of (S)-methyl 2-(3-methylmorpholino)benzoxazole-4-carboxylate (0.58 g, 2.1 mmol) in 1,4-dioxane/CH3OH/H2O (2:2:1, 8.5 mL) containing lithium hydroxide monohydrate (150 mg, 6.30 mmol) was stirred at room temperature 24 h. The reaction mixture was concentrated under reduced pressure and residual H2O was azeotropically removed with benzene (2×100 mL) to yield lithium (S)-2-(3-methylmorpholino)benzoxazole-4-carboxylate as a white solid which was used in the next step without further isolation or purification.

reactant | (S)-methyl 2-(3-methylmorpholino)benzoxazole-4-carboxylate | 2.1 mmol, 0.58 g | C[C@H]1COCCN1C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C14H16N2O4
reactant | lithium hydroxide monohydrate | 6.30 mmol, 150 mg | O.[OH-].[Li+]
solvent | 1,4-dioxane CH3OH H2O | 8.5 mL | O1CCOCC1.CO.O
product | lithium (S)-2-(3-methylmorpholino)benzoxazole-4-carboxylate | C[C@H]1COCCN1C=1OC=2C(N1)=C(C=CC2)C(=O)[O-].[Li+] | InChI=1S/C13H14N2O4.Li/c1-8-7-18-6-5-15(8)13-14-11-9(12(16)17)3-2-4-10(11)19-13;/h2-4,8H,5-7H2,1H3,(H,16,17);/q;+1/p-1/t8-;/m0./s1
